### PR TITLE
[Merged by Bors] - feat(FieldTheory/Finite): irreducible factors of X^q^n - X have degree dividing n

### PR DESCRIPTION
**Pull request by alainchmt**
Add the theorem that if an irreducible polynomial over a finite field `K` divides `X ^ (Fintype.card K) ^ n - X`, then the degree of the polynomial divides `n`.  We also add an auxiliary lemma stating that polynomials of nonzero degree dividing `X ^ (Fintype.card K) - X` have a root in `K`. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/FieldTheory/Finite/Extension.lean [hunk 1]
```diff
@@ -135,3 +135,54 @@ noncomputable def algEquivExtension (l : Type*) [Field l] [Algebra k l]
...
+
+section Polynomial
+
+variable {K : Type*} [hf : Field K] [Fintype K]
+
+
+open Polynomial FiniteField
+
+theorem Irreducible.natDegree_dvd_of_dvd_X_pow_card_pow_sub_X {n : ℕ} [NeZero n] {f : K[X]}
+    (hi : Irreducible f) (h : f ∣ X ^ (Fintype.card K) ^ n - X) : f.natDegree ∣ n := by
```
Comment (tb65536) [inline Mathlib/FieldTheory/Finite/Extension.lean]: A few comments:
- You can remove the `[NeZero n]` assumption (if `n` is zero then `f.natDegree ∣ n` trivially).
- You can use `[Finite K]` and `Nat.card K` rather than `[Fintype K]` and `Fintype.card K`.
- You can even drop the `[Finite K]` assumption (if `K` is infinite, then `Nat.card K = 0`, so `f | 1 - X`, so `f.natDegree = 1`).

Comment (alainchmt) [reply Mathlib/FieldTheory/Finite/Extension.lean]: Thanks! I've implemented all three changes in the latest commit.

File: Mathlib/FieldTheory/Finite/Extension.lean [hunk 2]
```diff
@@ -135,3 +135,61 @@ noncomputable def algEquivExtension (l : Type*) [Field l] [Algebra k l]
...
+      refine (@Module.finrank_mul_finrank K (AdjoinRoot f) F _ _ _ M3 M2 M1 hfinite _ _
+        hF1 (Module.Free.of_divisionRing (AdjoinRoot f) _) ).symm
+    · simp only [Nat.card_eq, hf, reduceDIte, zero_pow hn, pow_zero] at h
+      rw [← dvd_neg, neg_sub] at h
+      rw [natDegree_eq_of_degree_eq_some (Splits.degree_eq_one_of_irreducible
+        (Splits.of_dvd (Splits.X_sub_C _) (X_sub_C_ne_zero _) h) hi)]
+      exact one_dvd _
+
+
+end Polynomial
```
Comment (tb65536) [inline Mathlib/FieldTheory/Finite/Extension.lean:162]:
```suggestion
section Polynomial

open FiniteField IntermediateField Polynomial

variable {K L : Type*} [Field K] [Field L] [Algebra K L]

theorem eq_minpoly_of_irreducible {f : K[X]} (hi : Irreducible f) {x : L} (hx : f.aeval x = 0) :
    f = C f.leadingCoeff * minpoly K x := by
  rw [← minpoly.eq_of_irreducible hi hx, mul_comm, mul_assoc, ← C_mul,
    inv_mul_cancel₀ (leadingCoeff_ne_zero.mpr hi.ne_zero), C_1, mul_one]

theorem natDegree_dvd_finrank_of_irreducible {f : K[X]} (hi : Irreducible f)
    (hs : (f.map (algebraMap K L)).Splits) : f.natDegree ∣ Module.finrank K L := by
  have := hi.degree_pos.ne'
  rw [← f.degree_map (algebraMap K L)] at this
  obtain ⟨x, hx⟩ := hs.exists_eval_eq_zero this
  rw [eval_map_algebraMap] at hx
  have key := eq_minpoly_of_irreducible hi hx
  replace hi := hi.ne_zero
  rw [key, natDegree_C_mul (leadingCoeff_ne_zero.mpr hi)]
  apply minpoly.degree_dvd
  rw [← minpoly.ne_zero_iff]
  contrapose! hi
  rwa [hi, mul_zero] at key

theorem Irreducible.natDegree_dvd_of_dvd_X_pow_card_pow_sub_X {n : ℕ} {f : K[X]}
    (hi : Irreducible f) (h : f ∣ X ^ (Nat.card K) ^ n - X) : f.natDegree ∣ n := by
  rcases eq_or_ne n 0 with rfl | hn
  · simp
  cases fintypeOrInfinite K; swap
  · rw [Nat.card_eq_zero_of_infinite, zero_pow hn, pow_zero, ← dvd_neg, neg_sub] at h
    rw [((Splits.X_sub_C 1).of_dvd (X_sub_C_ne_zero 1) h).natDegree_eq_one_of_irreducible hi]
    exact one_dvd n
  let ⟨p, hp⟩ := CharP.exists K
  have : Fact (Nat.Prime p) := ⟨CharP.char_is_prime K p⟩
  have : NeZero n := ⟨hn⟩
  rw [← finrank_extension K p n]
  apply natDegree_dvd_finrank_of_irreducible hi
  refine Splits.of_dvd ?_ ?_ (map_dvd (algebraMap K (Extension K p n)) h)
  · apply IsSplittingField.splits
  · exact map_ne_zero (X_pow_card_pow_sub_X_ne_zero K hn Finite.one_lt_card)

end Polynomial
```

**Review by tb65536 — COMMENTED** [review]
One thing to point out is that you don't need to use `haveI` and `letI` in proofs anymore. They used to be necessary in Lean3, but not anymore (and in fact, the actually do something slightly different now).

File: Mathlib/FieldTheory/Finite/Extension.lean (hunk 2 above)
Comment (tb65536) [reply Mathlib/FieldTheory/Finite/Extension.lean:162]: (You should move the first two lemmas to earlier files)

Comment (alainchmt) [reply Mathlib/FieldTheory/Finite/Extension.lean:162]: Thank you for the suggested changes. I have now also moved the first two lemmas to earlier files.

File: Mathlib/FieldTheory/Finite/GaloisField.lean [hunk 3]
```diff
@@ -189,6 +189,18 @@ theorem _root_.FiniteField.isSplittingField_of_nat_card_eq (h : Nat.card K = p ^
   rw [← h, Nat.card_eq_fintype_card]
   exact FiniteField.isSplittingField_sub K (ZMod p)
 
+theorem _root_.FiniteField.exists_eval_eq_zero_of_dvd_X_pow_card_sub_X {f : K[X]}
+    (hd : f.degree ≠ 0) (h : f ∣ X ^ (Nat.card K) - X) : ∃ a, f.eval a = 0 := by
```
Comment (tb65536) [inline Mathlib/FieldTheory/Finite/GaloisField.lean]: Note that this isn't necessary anymore, but if you do want to keep it, I would probably replace it with just the fact that `X ^ Nat.card K - X` splits, rather than also following up with `Splits.of_dvd` and `Splits.exists_eval_eq_zero`.

**Review by tb65536 — APPROVED** [review]
(someone else will need to look over this given my involvement)

File: Mathlib/FieldTheory/Finite/GaloisField.lean (hunk 3 above)
Comment (alainchmt) [reply Mathlib/FieldTheory/Finite/GaloisField.lean]: Noted. I've updated the theorem following the suggestion.

File: Mathlib/FieldTheory/Finite/Extension.lean [hunk 4]
```diff
@@ -135,3 +135,28 @@ noncomputable def algEquivExtension (l : Type*) [Field l] [Algebra k l]
...
+
+open FiniteField Polynomial
+
+variable {K : Type*} [Field K]
+
+theorem Irreducible.natDegree_dvd_of_dvd_X_pow_card_pow_sub_X {n : ℕ} {f : K[X]}
+    (hi : Irreducible f) (h : f ∣ X ^ (Nat.card K) ^ n - X) : f.natDegree ∣ n := by
+  rcases eq_or_ne n 0 with rfl | hn
+  · simp
+  cases fintypeOrInfinite K; swap
```
Comment (dagurtomas) [inline Mathlib/FieldTheory/Finite/Extension.lean]:
```suggestion
  cases finite_or_infinite K; swap
```
There is no need for the data-containing `Fintype` here

**Review by dagurtomas — COMMENTED** [review]
Thanks!

maintainer delegate

File: Mathlib/FieldTheory/Finite/GaloisField.lean [hunk 5]
```diff
@@ -189,6 +189,15 @@ theorem _root_.FiniteField.isSplittingField_of_nat_card_eq (h : Nat.card K = p ^
   rw [← h, Nat.card_eq_fintype_card]
   exact FiniteField.isSplittingField_sub K (ZMod p)
 
+theorem _root_.Polynomial.splits_X_pow_nat_card_sub_X :
+    Splits (X ^ (Nat.card K) - X : K[X]) := by
+  cases fintypeOrInfinite K
+  · have := (IsSplittingField.splits (L := K) (X ^ (Fintype.card K) - X : K[X]))
+    simpa [Algebra.algebraMap_self, map_sub, map_pow, map_X] using this
+  · rw [← Polynomial.splits_neg_iff]
+    simp only [Nat.card_eq_zero_of_infinite, pow_zero, neg_sub]
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/Finite/GaloisField.lean]: Can you use a `simpa` for the last two lines?

File: Mathlib/FieldTheory/IntermediateField/Adjoin/Basic.lean [hunk 6]
```diff
@@ -549,6 +549,21 @@ theorem _root_.minpoly.degree_dvd {x : L} (hx : IsIntegral K x) :
   use finrank K⟮x⟯ L
   rw [mul_comm, finrank_mul_finrank]
 
+theorem _root_.Polynomial.natDegree_dvd_finrank_of_irreducible {f : K[X]} (hi : Irreducible f)
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/IntermediateField/Adjoin/Basic.lean]:
```suggestion
theorem _root_.Polynomial.Irreducible.natDegree_dvd_finrank {f : K[X]} (hi : Irreducible f)
```
To have dot notation.

File: Mathlib/FieldTheory/Minpoly/Field.lean [hunk 7]
```diff
@@ -161,6 +161,11 @@ theorem eq_of_irreducible [Nontrivial B] {p : A[X]} (hp1 : Irreducible p)
   · rw [aeval_mul, hp2, zero_mul]
   · rwa [Polynomial.Monic, leadingCoeff_mul, leadingCoeff_C, mul_inv_cancel₀]
 
+theorem eq_minpoly_of_irreducible [Nontrivial B] {p : A[X]} (hi : Irreducible p)
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/Minpoly/Field.lean]: Same as above.

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+
